US04272547
Analogously to the description in Example 2, 8.7 g of 5-(o-chlorobenzoyl)-6-hydroxy-indane-1-carboxylic acid methyl ester and 27 ml of 2 N sodium hydroxide solution in 100 ml of methanol give 5-(o-chlorobenzoyl)-6-hydroxy-indane-1-carboxylic acid of melting point 188°-190° C. (from ethyl acetate-petroleum ether).

reactant | sodium hydroxide | 2 N, 27 ml | [OH-].[Na+]
reactant | 5-(o-chlorobenzoyl)-6-hydroxy-indane-1-carboxylic acid | ClC1=C(C(=O)C=2C=C3CCC(C3=CC2O)C(=O)O)C=CC=C1 | C17H13ClO4
reactant | methanol | 100 ml | CO | CH4O
product | 5-(o-chlorobenzoyl)-6-hydroxy-indane-1-carboxylic acid methyl ester | 8.7 g | COC(=O)C1CCC2=CC(=C(C=C12)O)C(C1=C(C=CC=C1)Cl)=O | C18H15ClO4
